US06660759B1
To a mixture of benzyl (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate (1.50 g) and triphenylphosphine (1.43 g) in THF (15 mL) was added diethyl azodicarboxylate (0.86 mL) at 5° C., and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added AcOH (0.29 mL) at 5° C., and the mixture was stirred at room temperature for 3 hours. The reaction mixture was evaporated, and the residue was dissolved in EtOAc, washed with saturated sodium hydrogen carbonate solution, water and brine, dried (MgSO4), and evaporated in vacuo. The residue was purified by silica gal column chromatography (hexane-EtOAc, 2:1 elution) to give benzyl (2R, 4S)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate (1.88 g).

reactant | benzyl (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate | 1.50 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C27H24N2O4
reactant | triphenylphosphine | 1.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.86 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | AcOH | 0.29 mL | CC(=O)O | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | benzyl (2R, 4S)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate | 1.88 g | C(C)(=O)O[C@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O5
